US04031226
A mixture of 12.94 parts of ethyl (2-bromoethyl)carbamate, 15.68 parts of 5-chloro-1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one, 10.08 parts of sodium hydrogen carbonate and 160 parts of ethanol is stirred and refluxed overnight. The formed precipitate is filtered off and washed with trichloromethane. The layers from the filtrate are separated. The organic phase is dried, filtered and evaporated. The residue is stirred in 2-propanone. The unreacted starting material is filtered off and the filtrate is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from ethanol 70%. The product is filtered off and dried, yielding 6.5 parts of ethyl {2-[4-(5-chloro-2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]-ethyl}carbamate; mp. 187.7° C.

reactant | ethyl (2-bromoethyl)carbamate | BrCCNC(OCC)=O | C5H10BrNO2
reactant | 5-chloro-1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C12H14ClN3O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | ethyl {2-[4-(5-chloro-2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]-ethyl}carbamate | ClC1=CC2=C(N(C(N2)=O)C2CCN(CC2)CCNC(OCC)=O)C=C1 | C17H23ClN4O3
